US07687495B2
a) (2S,4R,5R)-2-[(Biphenyl-3-ylmethyl)-carbamoyl]-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester
According to general procedure D, 0.07 g of (2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1,2-dicarboxylic acid 1-benzyl ester and 3-phenylbenzylamine are reacted to afford the title compound as a colourless solid. Rf=0.15 (EtOAc-heptan 1:1:1); Rt=5.62.

reactant | (2S,4R,5R)-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1,2-dicarboxylic acid 1-benzyl ester | 0.07 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)OC)C(=O)O | C34H40N2O8
reactant | 3-phenylbenzylamine | C1(=CC=CC=C1)C=1C=C(CN)C=CC1 | C13H13N
product | (2S,4R,5R)-2-[(Biphenyl-3-ylmethyl)-carbamoyl]-4-(4-methoxy-phenyl)-5-[4-(3-methoxy-propyl)-3,4-dihydro-2H-benzo[1,4]oxazin-6-ylmethoxy]-piperidine-1-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)N1[C@@H](C[C@@H]([C@H](C1)OCC=1C=CC2=C(N(CCO2)CCCOC)C1)C1=CC=C(C=C1)OC)C(NCC=1C=C(C=CC1)C1=CC=CC=C1)=O | C47H51N3O7
